US04640702
5.95 g (25.7 mmol) of 2-chloro-4-trifluoromethyl-5-thiazolecarbonyl chloride in 50 ml of anhydrous ether was added dropwise at 0° C. to a mechanically stirred mixture of ethyl mercaptan (2.1 ml, 28.3 mmol) and triethylamine (3 g, 30 mmol) in 100 ml of anhydrous ether. The workup for this reaction was the same as Example 1 except that the crude pale yellow oil was distilled in a Kugelrohr at 80° C./0.55 mm to yield a colorless oil, 5.59 g. This oil was crystallized from petroleum ether at -72° C. to yield ethyl 2-chloro-4-trifluoromethyl-5-thiazolecarbothioate as a white solid; 4.8 g (68% yield), mp 28°-32° C.

reactant | 2-chloro-4-trifluoromethyl-5-thiazolecarbonyl chloride | 25.7 mmol, 5.95 g | ClC=1SC(=C(N1)C(F)(F)F)C(=O)Cl | C5Cl2F3NOS
reactant | ethyl mercaptan | 28.3 mmol, 2.1 ml | C(C)S | C2H6S
reactant | triethylamine | 30 mmol, 3 g | C(C)N(CC)CC | C6H15N
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | ethyl 2-chloro-4-trifluoromethyl-5-thiazolecarbothioate | 68% yield | ClC=1SC(=C(N1)C(F)(F)F)C(OCC)=S | C7H5ClF3NOS2
